US05055458
b) Diethyl 2,3-dihydroxypropoxymethylphosphonate
To a solution of diethyl allyloxymethylphosphonate (4.2 g. 20.2 mmol) in an acetone (50 ml) and water (25 ml) mixture, was added osmium tetroxide (1 crystal) and 4-methylmorpholine-N-oxide (3.8 g, 32.3 mmol). The reaction mixture was stirred at 20° C. under nitrogen until no more starting alkene was present (6 days). The solvents were evaporated under high vacuum and the residue chromatographed on silica eluting with chloroform-methanol 10:1 affording diethyl 2,3-dihydroxypropoxymethylphosphonate (4.2 g, 86%) as a clear liquid. νmax (film) 3400, 1650 , 1230, 1100, 1030 and 960 cm-1 ; δH (CDCl3) 1.35(6H, t, J7.3 Hz, 2×CH2CH3), 3.20(2H, s, D2O exchangeable, 2×OH), 3.62(5H, m, CH2OH+CHOH+CH2OCH2P), 3.79(2H, d, 8.2 Hz, CH2P), 4.14(4H, m, 2×CH2CH3); m/z 243 (MH+, 13%); Found: C,38.50; H,7.70%; C8H19O6P.0.4H2O requires C,38.52; H,7.94%.

reactant | diethyl allyloxymethylphosphonate | 20.2 mmol, 4.2 g | C(C=C)OCP(OCC)(OCC)=O | C8H17O4P
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | 4-methylmorpholine-N-oxide | 32.3 mmol, 3.8 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | water | 25 ml | O | H2O
product | Diethyl 2,3-dihydroxypropoxymethylphosphonate | OC(COCP(OCC)(OCC)=O)CO | C8H19O6P
